US04985432
Fifteen point five (15.5) grams of 2-amino-5-benzylthio-1,3,4-thiadiazole, 10 g of ethyl 3-ethoxypropenoate, 15 g of polyphosphoric acid and 15 ml of xylene were mixed and vigorously stirred for 30 minutes. After the reaction was finished, the reaction mixture was cooled. Water was added to the reaction mixture and the mixture was extracted with toluene. The organic layer was washed with an aqueous sodium hydrogen carbonate solution and water respectively and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was recrystallized from an ethanol/hexane mixture, and thus 10.3 g of 2-benzylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 54%.

reactant | 2-amino-5-benzylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCC1=CC=CC=C1 | C9H9N3S2
reactant | ethyl 3-ethoxypropenoate | 10 g | C(C)OC=CC(=O)OCC | C7H12O3
reactant | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | Water | O | H2O
product | 2-benzylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 10.3 g, Yield 54% | C(C1=CC=CC=C1)SC1=NN2C(=NC=CC2=O)S1 | C12H9N3OS2
